US07008950B1
1′-Benzyl-4,6,7-trimethylspiro[benzofuran-2(3H),4′ piperidine]-5-ol
To a solution of (1-benzyl-4-piperidyl)(2,5-dimethoxy-3,4,6-trimethylphenyl)methanol (6.10 g, 15.9 mmol) in acetic acid (30 mL) was added 48% hydrobromic acid (40 mL), and the mixture was heated under reflux for 15 hours in an argon atmosphere. The reaction mixture was cooled to room temperature, made basic with 8N sodium hydroxide solution, and extracted twice with ethyl acetate. The organic layers were combined, washed with an aqueous saturated sodium hydrogencarbonate, dried over magnesium sulfate, filtered, and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography (hexane/ethyl acetate=1/1) to obtain the title compound (4.60 g, yield 86%). This was amorphous.

reactant | (1-benzyl-4-piperidyl)(2,5-dimethoxy-3,4,6-trimethylphenyl)methanol | 15.9 mmol, 6.10 g | C(C1=CC=CC=C1)N1CCC(CC1)C(O)C1=C(C(=C(C(=C1C)OC)C)C)OC | C24H33NO3
reactant | hydrobromic acid | 40 mL | Br | BrH
reactant | sodium hydroxide | 8N | [OH-].[Na+]
solvent | acetic acid | 30 mL | C(C)(=O)O | C2H4O2
product | 1′-Benzyl-4,6,7-trimethylspiro[benzofuran-2(3H),4′ piperidine]-5-ol | 4.60 g, yield 86% | C(C1=CC=CC=C1)N1CCC2(CC1)OC1=C(C2)C(=C(C(=C1C)C)O)C | C22H27NO2
